US04939255
To 2.28 g of 7-amino-4-methoxyindane-1-one 110 ml of 47% hydrobromic acid was added and the mixture was heated under reflux for 3.5 hours. The reaction mixture was charged into ice, the mixture was neutralized by adding sodium bicarbonate, and then extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate. The solvent was evaporated to dryness to yield 2.10 g of 7-amino-4-hydroxyindane-1-one.

reactant | hydrobromic acid | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 7-amino-4-methoxyindane-1-one | 110 ml, 2.28 g | NC=1C=CC(=C2CCC(C12)=O)OC | C10H11NO2
product | 7-amino-4-hydroxyindane-1-one | 2.10 g | NC=1C=CC(=C2CCC(C12)=O)O | C9H9NO2
